US06635635B2
5,5-Dioxo-8-fluoro-2,3,3a,4-tetrahydro-1H-pyrrolo[2,1-c][1,2,4]-benzothiadiazin-7-ol
In Step A, 2-amino-5-methoxybenzenesulphonamide is replaced by 2-amino-4-fluoro-5-methoxybenzenesulphonamide.

reactant | 2-amino-5-methoxybenzenesulphonamide | NC1=C(C=C(C=C1)OC)S(=O)(=O)N | C7H10N2O3S
reactant | 2-amino-4-fluoro-5-methoxybenzenesulphonamide | NC1=C(C=C(C(=C1)F)OC)S(=O)(=O)N | C7H9FN2O3S
product | 5,5-Dioxo-8-fluoro-2,3,3a,4-tetrahydro-1H-pyrrolo[2,1-c][1,2,4]-benzothiadiazin-7-ol | O=S1(NC2N(C3=C1C=C(C(=C3)F)O)CCC2)=O | C10H11FN2O3S
